US04413096
Ethylene/1-(2-Acryloyloxyethyl)-3,3,5,5-tetramethylpiperazine-2,6-dione Copolymer
The above-named copolymer was prepared by the general procedure of Example 1 by substituting for the 2,2,6,6-tetramethylpiperidin-4-ol an equivalent amount of 1-(2-hydroxyethyl)-3,3,5,5-tetramethylpiperazine-2,6-dione. The reaction was run at 210° C.

reactant | 2,2,6,6-tetramethylpiperidin-4-ol | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | 1-(2-hydroxyethyl)-3,3,5,5-tetramethylpiperazine-2,6-dione | OCCN1C(C(NC(C1=O)(C)C)(C)C)=O | C10H18N2O3
product | Ethylene 1-(2-Acryloyloxyethyl)-3,3,5,5-tetramethylpiperazine-2,6-dione | C=C.C(C=C)(=O)OCCN1C(C(NC(C1=O)(C)C)(C)C)=O | InChI=1S/C13H20N2O4.C2H4/c1-6-9(16)19-8-7-15-10(17)12(2,3)14-13(4,5)11(15)18;1-2/h6,14H,1,7-8H2,2-5H3;1-2H2
